US04985419
A solution of N2 -cyano-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamidine hydrochloride (0.93 g) and propylamine (1.86 cc) in ethanol (25 cc) is brought to 100° C. for 16 hours. The reaction mixture is concentrated to dryness at 50° C. under reduced pressure (30 mm Hg; 4 kPa) to give a residue which is purified by chromatography on a column (height: 13.6 cm; diameter: 2.4 cm) of silica (0.04-0.06 mm) with a slight excess pressure of nitrogen (40 kPa), eluting with a 20:80 (by volume) mixture (750 cc) of cyclohexane and ethyl acetate, then with pure ethyl acetate (750 cc) and finally with a 90:10 (by volume) mixture (750 cc) of ethyl acetate and methanol, while collecting 50-cc fractions. The first 1000 cc are discarded and fractions 5 to 10 are combined and concentrated to dryness at 50° C. under reduced pressure (30 mm Hg; 4 kPa) to give a solid which is dissolved hot in toluene (4 cc). Crystallization is primed and, after cooling, the crystals are separated by filtration on sintered glass and dried under reduced pressure (1 mm Hg; 0.13 kPa) at 40° C. to give N2 -cyano-N1 -propyl-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamidine (0.15 g) in the form of yellow crystals, m.p. 154° C.

reactant | N2 cyano-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamidine hydrochloride | 0.93 g | N#N.Cl.C(#N)C1=C(C=CC=2SC3=CC=CC=C3N(C12)C(CN1CCCC1)C)C(=N)N
reactant | propylamine | 1.86 cc | C(CC)N | C3H9N
solvent | ethanol | 25 cc | C(C)O | C2H6O
solvent | toluene | 4 cc | C1(=CC=CC=C1)C | C7H8
product | N2 cyano-N1 -propyl-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamidine | 0.15 g | N#N.C(#N)C1=C(C=CC=2SC3=CC=CC=C3N(C12)C(CN1CCCC1)C)C(=N)NCCC | InChI=1S/C24H29N5S.N2/c1-3-12-27-24(26)18-10-11-22-23(19(18)15-25)29(17(2)16-28-13-6-7-14-28)20-8-4-5-9-21(20)30-22;1-2/h4-5,8-11,17H,3,6-7,12-14,16H2,1-2H3,(H2,26,27);
